US06335341B1
Ethyl acetate saturated with gaseous HCl (50 ml) was added to a solution of 1-tert-butoxycarbonyl-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylmethyl]piperidine (3.02 g) in ethyl acetate (15 ml) and the resulting suspension stirred at ambient temperature for 3 hours. Solvent was evaporated to give 4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylmethyl]piperidine trihydrochloride (2.78 g) as a colourless foam.

reactant | HCl | 50 ml | Cl | ClH
reactant | 1-tert-butoxycarbonyl-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylmethyl]piperidine | 3.02 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCN(CC1)C1=NC(=NC=C1)C | C20H33N5O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylmethyl]piperidine trihydrochloride | 2.78 g | Cl.Cl.Cl.CC1=NC=CC(=N1)N1CCN(CC1)CC1CCNCC1 | InChI=1S/C15H25N5.3ClH/c1-13-17-7-4-15(18-13)20-10-8-19(9-11-20)12-14-2-5-16-6-3-14;;;/h4,7,14,16H,2-3,5-6,8-12H2,1H3;3*1H
